US04734418
Methyl 2-(4-benzylpiperazino)-4-methoxypyrimidine-5-carboxylate
To a methanol solution (50 ml) of 1.88 g (34.8 mmol) of sodium methoxide, a methanol solution (40 ml) of 10.1 g (28.0 mmol) of ethyl 2-(4-benzylpiperazino)-4-chloropyrimidine-5-carboxylate (the compound synthesized in Referential Example 63) was added dropwise over 10 minutes. The resultant mixture was stirred at room temperature for 1 hour. Methanol was distilled off under reduced pressure and water was added, followed by extraction with chloroform. After drying the chloroform layer with MgSO4, chloroform was distilled off under reduced pressure and the residue was recrystallized from methanol-ethyl acetate to obtain 7.9 g of the above-identified compound (yield: 79%).

reactant | sodium methoxide | 34.8 mmol, 1.88 g | C[O-].[Na+]
reactant | ethyl 2-(4-benzylpiperazino)-4-chloropyrimidine-5-carboxylate | 28.0 mmol, 10.1 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)Cl)C(=O)OCC | C18H21ClN4O2
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 2-(4-benzylpiperazino)-4-methoxypyrimidine-5-carboxylate | 7.9 g, yield: 79% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)OC)C(=O)OC | C18H22N4O3
